2162-04-10 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-4-9**] 06:04 PM
 ARTERIAL LINE - START [**2162-4-9**] 09:28 PM
 FEVER - 101.3
F - [**2162-4-9**] 10:00 PM
   -          Spiked temp 101.3 -> cultures & acetaminophen
   -          Increased PEEP for improved oxygenation overnight
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2162-4-9**] 07:00 PM
   Famotidine (Pepcid) - [**2162-4-9**] 10:48 PM
   Heparin Sodium (Prophylaxis) - [**2162-4-10**] 12:58 AM
   Fentanyl - [**2162-4-10**] 05:58 AM
   Propofol - [**2162-4-10**] 06:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-10**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 71 (65 - 124) bpm
   BP: 128/69(87) {91/50(62) - 165/90(114)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,138 mL
                                                                    217 mL
   PO:
             TF:
   IVF:
                                                                  1,138 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    185 mL
   Urine:
                                                                    325 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    673 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 30.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/36/99.[**Numeric Identifier 8**]/27/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   308 K/uL
   13.2 g/dL
   158 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   38.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2162-4-9**]  07:18 PM
                             [**2162-4-9**]  09:01 PM
                             [**2162-4-9**]  09:15 PM
                             [**2162-4-9**]  10:43 PM
                             [**2162-4-10**]  01:20 AM
                             [**2162-4-10**]  04:07 AM
                             [**2162-4-10**]  04:30 AM
                             [**2162-4-10**]  05:41 AM
   WBC
   12.1
   11.7
   Hct
   41.7
   38.5
   Plt
   317
   308
   Cr
   0.6
   0.7
   TCO2
   30
   28
   27
   26
   28
   27
   Glucose
   137
   156
   158
   Other labs: Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   25 y/o M with biopsy-proven pulmonary alveolar proteinosis, s/p
   bilateral whole lung lavages, with hypoxia and unsuccessful attempts to
   retrieve fluid during today's left-sided lavage.
   .
   # Pulmonary alveolar proteinosis: S/p successful right sided whole lung
   lavage & abbreviated left lavage with 1.25 liters normal saline not
   retrieved from lung. On ventilator overnight (see below). CXR
   significantly improved from yesterday. IP not planning further
   intervention at this time.
   - Adjust ventilator settings as needed, will attempt to wean PEEP
   slowly as able
   - Sedation with propofol
   - no role for diuresis at this time
   - telemetry
   - IP recs: no plan for intervention at this time
   - Famotidine for stress ulcer prophylaxis
   - HOB > 30 degrees
   .
   # Mechanical ventilation: Remains on assist control. Hypercarbia
   resolved with increased RR. Increased PEEP overnight to improve PO2,
   with FiO2 now down to 40%. [**Month (only) 11**] require higher levels of PEEP given
   habitus.
   - Follow ABG's
   - Wean vent settings as tolerated
   - C/w propofol sedation and PRN fentanyl boluses
   .
   # Fever: U/a with moderate bacteria, negative leuks/nitrites. Blood
   cultures pending. [**Month (only) 11**] also be attributable to OR
   procedure/instrumentation/saline infusion. Leukocytosis downtrending.
   Hemodynamically stable
   - No role for antibiotics at this time
   - Monitor fever curve
   .
   # Hyperlipidemia: C/w home statin
   .
   # Pharyngitis: Will hold Nystatin, will monitor post-extubation
   .
   # FEN: Consider IVF & monitor uop, replete electrolytes, start TF
   # Prophylaxis: Subcutaneous heparin, acetaminophen, famotidine
   # Access: PIV x3. Right radial line, OG tube
   # Communication: Patient, family ([**Name (NI) **] (Mom), [**Male First Name (un) **] (Dad)--cell #
   [**Telephone/Fax (1) 11238**]). They are staying at Super 8 in [**Location (un) 5713**], [**Apartment Address(1) 11243**], phone
   # [**Telephone/Fax (1) 11240**])
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-4-9**] 05:30 PM
   22 Gauge - [**2162-4-9**] 06:00 PM
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-04-10 09:00:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 yo man with PAP, tolerated right lung lavage well. Left lung lavage
   had to be aborted to due to hypoxemia.  Currently sedated on
   ventilator.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2162-4-9**] 06:04 PM
 ARTERIAL LINE - START [**2162-4-9**] 09:28 PM
 FEVER - 101.3
F - [**2162-4-9**] 10:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2162-4-9**] 07:00 PM
   Famotidine (Pepcid) - [**2162-4-9**] 10:48 PM
   Heparin Sodium (Prophylaxis) - [**2162-4-10**] 12:58 AM
   Fentanyl - [**2162-4-10**] 05:58 AM
   Propofol - [**2162-4-10**] 06:23 AM
   Other medications:
   simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-10**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 56 (56 - 124) bpm
   BP: 111/59(75) {91/50(62) - 165/90(114)} mmHg
   RR: 18 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,138 mL
                                                                    252 mL
   PO:
             TF:
   IVF:
                                                                  1,138 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                    465 mL
                                                                    275 mL
   Urine:
                                                                    325 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    673 mL
                                                                    -23 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 30.5 cmH2O/mL
   SpO2: 94%
   ABG: 7.47/36/99.[**Numeric Identifier 8**]/27/2
   Ve: 10.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   13.2 g/dL
   308 K/uL
   158 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   10 mg/dL
   104 mEq/L
   140 mEq/L
   38.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2162-4-9**]  07:18 PM
                             [**2162-4-9**]  09:01 PM
                             [**2162-4-9**]  09:15 PM
                             [**2162-4-9**]  10:43 PM
                             [**2162-4-10**]  01:20 AM
                             [**2162-4-10**]  04:07 AM
                             [**2162-4-10**]  04:30 AM
                             [**2162-4-10**]  05:41 AM
   WBC
   12.1
   11.7
   Hct
   41.7
   38.5
   Plt
   317
   308
   Cr
   0.6
   0.7
   TCO2
   30
   28
   27
   26
   28
   27
   Glucose
   137
   156
   158
   Other labs: Lactic Acid:1.6 mmol/L, Ca++:9.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pulmonary alveolar proteinosis:  No further plan for lavage.  Will
   allow lungs to recover from acute injury.
   Respiratory failure:  hypoxemia improved.  Can begin to wean down on
   Peep.
   Fever:  follow up on cx.
   ICU Care
   Nutrition:
   Comments: can start TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2162-4-9**] 05:30 PM
   22 Gauge - [**2162-4-9**] 06:00 PM
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2162-04-11 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Given drop in O2 on ABG, increased PEEP from 10--> 12. Then RT noted
   cuff leak and increased FiO2 briefly from 40 --> 100%, PEEP 15. This
   AM, FiOs 40% and PEEP 10 w/ good ABG
   - Tube feed recs entered
   - Requiring higher doses of Propofol (30
 35), fentanyl boluses
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2162-4-10**] 04:00 PM
   Famotidine (Pepcid) - [**2162-4-10**] 09:20 PM
   Fentanyl - [**2162-4-11**] 05:53 AM
   Propofol - [**2162-4-11**] 06:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-11**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 86 (48 - 86) bpm
   BP: 99/55(70) {91/38(54) - 150/81(103)} mmHg
   RR: 15 (6 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,076 mL
                                                                    190 mL
   PO:
             TF:
                                                                    134 mL
                                                                    134 mL
   IVF:
                                                                  1,902 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    843 mL
                                                                    180 mL
   Urine:
                                                                    843 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,233 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: 7.40/45/94.[**Numeric Identifier 433**]/23/1
   Ve: 10.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   11.9 g/dL
   135 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   106 mEq/L
   136 mEq/L
   35.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2162-4-9**]  10:43 PM
                             [**2162-4-10**]  01:20 AM
                             [**2162-4-10**]  04:07 AM
                             [**2162-4-10**]  04:30 AM
                             [**2162-4-10**]  05:41 AM
                             [**2162-4-10**]  04:14 PM
                             [**2162-4-11**]  12:16 AM
                             [**2162-4-11**]  03:10 AM
                             [**2162-4-11**]  03:26 AM
                             [**2162-4-11**]  04:45 AM
   WBC
   11.7
   7.1
   Hct
   38.5
   35.1
   Plt
   308
   244
   Cr
   0.7
   0.6
   TCO2
   27
   26
   28
   27
   27
   28
   26
   29
   Glucose
   158
   135
   Other labs: Lactic Acid:1.6 mmol/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   25 y/o M with biopsy-proven pulmonary alveolar proteinosis, s/p
   bilateral whole lung lavages, with hypoxia and unsuccessful attempts to
   retrieve fluid during left-sided lavage two days ago.
   .
   # Pulmonary alveolar proteinosis: S/p successful right sided whole lung
   lavage & abbreviated left lavage with 1.25 liters normal saline not
   retrieved from lung. On mechanical ventilation. CXR significantly
   improved from yesterday. IP not planning further intervention at this
   time.
   - Continue to adjust ventilator settings as needed, will attempt to
   maintain on PEEP 10 (given body habitus, this may be lowest tolerable
   PEEP)
   - [**Month (only) 11**] try SAT
 SBT later today or tomorrow morning
   - Current sedation with Propofol
 consider Fentanyl/Versed for patient
   comfort given anxiety component
   - [**Month (only) 11**] give low-dose Lasix for diuresis today given minimal UOP
   - Continue telemetry
   - Follow-up IP recs, if any
   - Famotidine for stress ulcer prophylaxis
   - HOB > 30 degrees
   .
   # Mechanical ventilation: Remains on assist control. Adjusted PEEP
   overnight to improve PO2, with FiO2 now down to 40%. [**Month (only) 11**] require higher
   levels of PEEP given habitus.
   - Follow ABG's
   - Wean vent settings as tolerated
   .
   # Fever: U/a with moderate bacteria, negative leuks/nitrites. Urine and
   blood cultures pending. [**Month (only) 11**] also be attributable to OR
   procedure/instrumentation/saline infusion. Leukocytosis downtrending.
   Hemodynamically stable
   - No role for antibiotics at this time
   - Monitor fever curve
   .
   # Hyperlipidemia: C/w home statin
   .
   # Pharyngitis: Will hold Nystatin, will monitor post-extubation
   .
   # FEN: Consider IVF & monitor uop, replete electrolytes, Tube Feeds
   # Prophylaxis: Subcutaneous heparin, acetaminophen, famotidine
   # Access: PIV x3. Right radial line, OG tube
   # Communication: Patient, family ([**Name (NI) **] (Mom), [**Male First Name (un) **] (Dad)--cell #
   [**Telephone/Fax (1) 11238**]). They are staying at Super 8 in [**Location (un) 5713**], [**Apartment Address(1) 11243**], phone
   # [**Telephone/Fax (1) 11240**])
   # Code:  Full (discussed with HCP)
   # Disposition: ICU pending clinical improvement
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 DYSLIPIDEMIA (CHOLESTEROL, TRIGLYCERIDE, LIPID DISORDER)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Pulmonary proteinosis
   ICU Care
   Nutrition:
   Ensure (Full) - [**2162-4-10**] 02:18 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-4-9**] 06:00 PM
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
   20 Gauge - [**2162-4-11**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-04-11 09:18:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   25 yo man with PAP.  Desaturated yesterday in setting of weaning peep.
   Had to go back up, but then stabilized and Peep now weaned to 8.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2162-4-11**] 05:53 AM
   Propofol - [**2162-4-11**] 06:16 AM
   Midazolam (Versed) - [**2162-4-11**] 06:30 AM
   Famotidine (Pepcid) - [**2162-4-11**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2162-4-11**] 08:19 AM
   Other medications:
   famotadine
   chlorhex
   simvastatin
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-11**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 49 (48 - 86) bpm
   BP: 108/55(70) {91/38(54) - 150/81(103)} mmHg
   RR: 14 (6 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
             Total In:
                                                                  2,076 mL
                                                                    860 mL
   PO:
             TF:
                                                                    134 mL
                                                                    326 mL
   IVF:
                                                                  1,902 mL
                                                                    294 mL
   Blood products:
   Total out:
                                                                    843 mL
                                                                    320 mL
   Urine:
                                                                    843 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,233 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.40/45/94.[**Numeric Identifier 433**]/23/1
   Ve: 10.3 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.9 g/dL
   244 K/uL
   135 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   12 mg/dL
   106 mEq/L
   136 mEq/L
   35.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2162-4-9**]  10:43 PM
                             [**2162-4-10**]  01:20 AM
                             [**2162-4-10**]  04:07 AM
                             [**2162-4-10**]  04:30 AM
                             [**2162-4-10**]  05:41 AM
                             [**2162-4-10**]  04:14 PM
                             [**2162-4-11**]  12:16 AM
                             [**2162-4-11**]  03:10 AM
                             [**2162-4-11**]  03:26 AM
                             [**2162-4-11**]  04:45 AM
   WBC
   11.7
   7.1
   Hct
   38.5
   35.1
   Plt
   308
   244
   Cr
   0.7
   0.6
   TCO2
   27
   26
   28
   27
   27
   28
   26
   29
   Glucose
   158
   135
   Other labs: Lactic Acid:1.6 mmol/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure:  doing better.  Peep weaned down.  Will try PSV
   trial.
   Pulmonary alveolar proteinosis: stable appearance on CXR.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2162-4-10**] 02:18 PM 40 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2162-4-9**] 06:00 PM
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
   20 Gauge - [**2162-4-11**] 04:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2162-04-12 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-4-11**] 12:15 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2162-4-11**] 08:19 AM
   Heparin Sodium (Prophylaxis) - [**2162-4-11**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-4-12**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 84 (49 - 93) bpm
   BP: 102/45(62) {90/42(59) - 140/68,105(96)} mmHg
   RR: 17 (6 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                  1,992 mL
                  PO:
                  TF:
                                                                    339 mL
   IVF:
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    100 mL
   Urine:
                                                                  1,045 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    947 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 92%
   ABG: 7.42/44/103/24/3
   Ve: 7.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   12.1 g/dL
   146 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   36.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2162-4-10**]  05:41 AM
                             [**2162-4-10**]  04:14 PM
                             [**2162-4-11**]  12:16 AM
                             [**2162-4-11**]  03:10 AM
                             [**2162-4-11**]  03:26 AM
                             [**2162-4-11**]  04:45 AM
                             [**2162-4-11**]  11:48 AM
                             [**2162-4-11**]  02:35 PM
                             [**2162-4-12**]  02:57 AM
                             [**2162-4-12**]  03:11 AM
   WBC
   7.1
   6.7
   Hct
   35.1
   36.0
   Plt
   244
   246
   Cr
   0.6
   0.6
   TCO2
   27
   27
   28
   26
   29
   28
   23
   30
   Glucose
   135
   146
   Other labs: PT / PTT / INR:11.8/26.8/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   25 y/o M with biopsy-proven pulmonary alveolar proteinosis, s/p
   bilateral whole lung lavages, with hypoxia and unsuccessful attempts to
   retrieve fluid during left-sided lavage two days ago.
   .
   # Pulmonary alveolar proteinosis: S/p successful right sided whole lung
   lavage & abbreviated left lavage with 1.25 liters normal saline not
   retrieved from lung. Now extubated. CXR significantly improved from
   yesterday. IP not planning further intervention at this time.
   - Continue to wean O2 as tolerated. Currently on 2L
   - Will f/u IP recs
   - [**Month (only) 11**] give low-dose Lasix for diuresis today given minimal UOP
   - Continue telemetry
   - Follow-up IP recs, if any
   - Famotidine for stress ulcer prophylaxis
   - Albuterol nebs
   - HOB > 30 degrees
   .
   # Mechanical ventilation: Remains on assist control. Adjusted PEEP
   overnight to improve PO2, with FiO2 now down to 40%. [**Month (only) 11**] require higher
   levels of PEEP given habitus.
   - Follow ABG's
   - Wean vent settings as tolerated
   .
   # Fever: U/a with moderate bacteria, negative leuks/nitrites. Urine and
   blood cultures pending. [**Month (only) 11**] also be attributable to OR
   procedure/instrumentation/saline infusion. Leukocytosis downtrending.
   Hemodynamically stable
   - No role for antibiotics at this time
   - Monitor fever curve
   - Will follow cx
   - Low threshold to cover for HAP if Pt febrile or otherwise appearing
   clinically infected
   .
   # Hyperlipidemia: C/w home statin
   .
   # Pharyngitis: Continuing Nystatin for apparent thrush
   .
   # FEN:  replete electrolytes, regular cardiac diet
   # Prophylaxis: Subcutaneous heparin, acetaminophen, famotidine
   # Access: PIV x2. Right radial line, OG tube
   # Communication: Patient, family ([**Name (NI) **] (Mom), [**Male First Name (un) **] (Dad)--cell #
   [**Telephone/Fax (1) 11238**]). They are staying at Super 8 in [**Location (un) 5713**], [**Apartment Address(1) 11243**], phone
   # [**Telephone/Fax (1) 11240**])
   # Code:  Full (discussed with HCP)
   # Disposition: ICU for now, but will call out today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
   20 Gauge - [**2162-4-12**] 04:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-04-12 10:12:00 Physician Attending Progress Note
Chief Complaint: pulmonary alveolar proteinosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2162-4-11**] 12:15 PM
   Extubated yesterday.  Some stridor after extubation --> resolved with
   racemic epinephrine
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   SQH, statin, albuterol, oral nystatin, H2B
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: supplemental O2
   Flowsheet Data as of  [**2162-4-12**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**64**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (98.9
   HR: 84 (51 - 93) bpm
   BP: 102/45(62) {90/42(59) - 140/68,105(96)} mmHg
   RR: 17 (6 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 146.6 kg (admission): 150 kg
   Height: 71 Inch
                  Total In:
                                                                  1,992 mL
                  PO:
                  TF:
                                                                    339 mL
   IVF:
                                                                  1,413 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                    600 mL
   Urine:
                                                                  1,045 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    947 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 600 (600 - 600) mL
   FiO2: 50%
   RSBI: 20
   SpO2: 92%
   ABG: 7.42/44/103/24/3
   Ve: 7.2 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   246 K/uL
   146 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   36.0 %
   6.7 K/uL
        [image002.jpg]
                             [**2162-4-10**]  05:41 AM
                             [**2162-4-10**]  04:14 PM
                             [**2162-4-11**]  12:16 AM
                             [**2162-4-11**]  03:10 AM
                             [**2162-4-11**]  03:26 AM
                             [**2162-4-11**]  04:45 AM
                             [**2162-4-11**]  11:48 AM
                             [**2162-4-11**]  02:35 PM
                             [**2162-4-12**]  02:57 AM
                             [**2162-4-12**]  03:11 AM
   WBC
   7.1
   6.7
   Hct
   35.1
   36.0
   Plt
   244
   246
   Cr
   0.6
   0.6
   TCO2
   27
   27
   28
   26
   29
   28
   23
   30
   Glucose
   135
   146
   Other labs: PT / PTT / INR:11.8/26.8/1.0, Lactic Acid:1.6 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   25-year-old man with pulmonary alveolar proteinosis, admitted to ICU
   Friday for respiratory failure after second procedure for whole-lung
   lavage.
   PAP
   No further plans for IP intervention
   Wean O2 as tolerated
   Ambulate
   Fever
   Will observe for now and try to get sputum culture
   Discuss with IP; seems a little late for lavage-related fever
   If respikes, cover for HAP including MRSA and PSA
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   Comments: Oral diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2162-4-9**] 06:30 PM
   Arterial Line - [**2162-4-9**] 09:28 PM
 D/C
   20 Gauge - [**2162-4-12**] 04:44 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  D/C famotidine
   VAP:
   Comments:
   Communication:  Comments:  Discussed with Patient
   Code status: Full code
   Disposition :Transfer to floor